US04303655
To ethyl 2-(2-tetrahydropyranyl)oxy-2-(2-mesylamino-1,3-thiazol-4-yl)acetate, which can be represented as ethyl 2-(2-tetrahydropyranyl)oxy-2-(2-mesylimino-2,3-dihydro-1,3-thiazol-4-yl)acetate, (0.85 g.) was added 1H sodium hydroxide aqueous solution prepared by sodium hydroxide (0.28 g.) and water (7 ml.), and then the mixture was stirred for 1 hour at room temperature. After the reaction, to the reaction mixture was added ethyl acetate. The mixture was adjusted to pH 1 to 2 with 2 N hydrochloric acid, and the aqueous layer was separated. The aqueous layer was subjected to salting-out and then extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and then the solvent was distilled off to give a foamy substance of 2-(2-tetrahydropyranyl)oxy-2-(2-mesylamino-1,3-thiazol-4-yl)acetic acid, which can be represented as 2-(2-tetrahydropyranyl)oxy-2-(2-mesylimino-2,3-dihydro-1,3-thiazol-4-yl)acetic acid, (0.52 g.).

reactant | ethyl 2-(2-tetrahydropyranyl)oxy-2-(2-mesylamino-1,3-thiazol-4-yl)acetate | O1C(CCCC1)OC(C(=O)OCC)C=1N=C(SC1)NS(=O)(=O)C | C13H20N2O6S2
reactant | ethyl 2-(2-tetrahydropyranyl)oxy-2-(2-mesylimino-2,3-dihydro-1,3-thiazol-4-yl)acetate | O1C(CCCC1)OC(C(=O)OCC)C=1NC(SC1)=NS(=O)(=O)C | C13H20N2O6S2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium hydroxide | 0.28 g | [OH-].[Na+]
reactant | water | 7 ml | O | H2O
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-tetrahydropyranyl)oxy-2-(2-mesylamino-1,3-thiazol-4-yl)acetic acid | O1C(CCCC1)OC(C(=O)O)C=1N=C(SC1)NS(=O)(=O)C | C11H16N2O6S2
